US08067445B2
Step 3: [2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-(5-fluoro-pyrimidin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [2′-ethylaminomethyl-4′-(5-fluoro-pyrimidin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester and cyclopropanecarbonyl chloride.

reactant | [2′-ethylaminomethyl-4′-(5-fluoro-pyrimidin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C1=NC=C(C=N1)F)CNCC)=O | C24H26FN3O3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | [2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-(5-fluoro-pyrimidin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C1=NC=C(C=N1)F)CN(CC)C(=O)C1CC1)=O | C28H30FN3O4
